US09422290B2
5-Benzyl-4-bromo-1-methyl-1H-pyrazole
(4-Bromo-2-methyl-2H-pyrazol-3-yl)-phenyl-methanol (0.50 g; 1.87 mmol) was treated with 3.0 ml TFA and Triethylsilane (1.49 ml; 9.36 mmol) and heated to 50° C. for 16 hours. The product was purified via reversed phase chromatography under acid conditions.

reactant | (4-Bromo-2-methyl-2H-pyrazol-3-yl)-phenyl-methanol | 1.87 mmol, 0.50 g | BrC1=C(N(N=C1)C)C(O)C1=CC=CC=C1 | C11H11BrN2O
reactant | TFA | 3.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Triethylsilane | 9.36 mmol, 1.49 ml | C(C)[SiH](CC)CC | C6H16Si
product | 5-Benzyl-4-bromo-1-methyl-1H-pyrazole | C(C1=CC=CC=C1)C1=C(C=NN1C)Br | C11H11BrN2
